US07973051B2
i) 4-Methoxymethyl-thiazol-2-ylamine
1,3-Dibromo-propan-2-one (9 g, 42 mmol) was dissolved in methanol. (90 mL) followed by the addition of thiourea (3.2 g, 42.5 mmol) and the dark colored mixture was refluxed overnight. The solvent was then removed under reduced pressure and the remaining oil was dissolved in an ethyl acetate/water. The mixture was acidified with 1N HCl to pH 1 and extracted with three portions of ethyl acetate. The aqueous layer was then treated with solid sodium carbonate to pH 8 and again extracted with three portions of ethyl acetate. The combined, organic extracts were washed with water and brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the crude product. After purification on silica gel (NH2-modified) with ethyl acetate/n-hepatane as eluents, the desired fractions were combined and concentrated under reduced pressure to yield a solid which was stirred in diethyl ether, filtered and dried to give the title compound as a light brown solid. (0.53 g, 9% yield) MS (ISP): m/e 145.1 (M−H)+

reactant | 1,3-Dibromo-propan-2-one | 42 mmol, 9 g | BrCC(CBr)=O | C3H4Br2O
reactant | thiourea | 42.5 mmol, 3.2 g | NC(=S)N | CH4N2S
reactant | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Methoxymethyl-thiazol-2-ylamine | 9% yield | COCC=1N=C(SC1)N | C5H8N2OS
